US04080275
(2-Dimethylaminoethyl)-p-benzoylbenzoate was prepared from para-benzoylbenzoic acid chloride and 2-dimethylaminoethanol. The structure of the product was confirmed by the presence of carbonyl absorption bands in the infrared spectrum at 1670 and 1725 cm-1. When added at 4% by weight loading to the test solution described in Example 3, a cure rate of 40 ft./min./lamp was observed.

reactant | para-benzoylbenzoic acid chloride | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)Cl)C=C1 | C14H9ClO2
reactant | 2-dimethylaminoethanol | CN(CCO)C | C4H11NO
product | (2-Dimethylaminoethyl)-p-benzoylbenzoate | CN(CCOC(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O)C | C18H19NO3
